US06610723B2
4,5-Diiodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole
4,5-Diiodoimidazole (prepared according to D. S. Carver, S. D. Lindell, and E. A. Saville-Stones, Tetrahedron, 1997, 53, 42, 14481-14496) (10.1 g, 31.6 mmol) was added portionwise to a room temperature suspension of sodium hydride (1.38 g, 31.6 mmol, 55% *in mineral oil) in dry DMF (45 ml). The reaction mixture was stirred at room temperature for 90 min, then cooled to 0° C. and treated slowly with a solution of 2-(trimethylsilyl)-ethoxymethylchloride (6.81 ml, 34.7 mmol) in DMF (10 ml). After 2 h stirring at 0° C., the reaction mixture was poured onto a mixture of H2O (200 ml) and AcOEt (50 ml). The mixture was filtered and the mother liquor was extracted 3 times with AcOEt. The combined extracts were dried over Na2SO4, filtered and the solvent was removed in vacuo. The residue was chromatographed (silica, elution with hexane/AcOEt=9:1) to provide the title compound (9.44 g, 66.4%) as a pale yellow oil. MS: m/e=450.0 (M+).

reactant | 4,5-Diiodoimidazole | IC=1N=CNC1I | C3H2I2N2
reactant | sodium hydride | 31.6 mmol, 1.38 g | [H-].[Na+]
reactant | 2-(trimethylsilyl)-ethoxymethylchloride | 34.7 mmol, 6.81 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | H2O | 200 ml | O | H2O
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | AcOEt | 50 ml | CCOC(=O)C | C4H8O2
product | 4,5-Diiodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | 9.44 g, 66.4% | IC=1N=CN(C1I)COCC[Si](C)(C)C | C9H16I2N2OSi
